US07659305B2
4-(3-Fluoro-benzylidene)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-(2-isopropyl-5-methyl-cyclohexyl)ester
To a solution of 4-(3-Fluoro-benzylidene)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (2.68 g, 8.35 mmol), 1R,2S,5R(−) menthol (1.31 g, 8.35 mmol) was added followed by dimethylaminopyridine (1.02 g, 8.35 mmol). The mixture was cooled to 0° C. and dicyclohexylcarbodiimide (1.89 g, 9.19 mmol) in dichloromethane (10 ml) was added in one portion. The mixture was warmed to room temperature stirred for 18 h. The mixture was filtered and the filtrate was washed with 1N hydrochloric acid (30 ml), sat. sodium hydrogen carbonate (30 ml) and water (30 ml). The organics were dried over magnesium sulphate and the solvent was removed by evaporation under reduced pressure. Purification by flashmaster column chromatography eluting with heptane:ethyl acetate (12:1) yielded the title compound (1.20 g, 31%) as a colourless oil.

reactant | 4-(3-Fluoro-benzylidene)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 8.35 mmol, 2.68 g | C(C)(C)(C)OC(=O)N1C(CC(C1)=CC1=CC(=CC=C1)F)C(=O)O | C17H20FNO4
reactant | menthol | 8.35 mmol, 1.31 g | C1(CC(C(CC1)C(C)C)O)C | C10H20O
reactant | dimethylaminopyridine | 8.35 mmol, 1.02 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dicyclohexylcarbodiimide | 9.19 mmol, 1.89 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(3-Fluoro-benzylidene)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-(2-isopropyl-5-methyl-cyclohexyl)ester | 1.20 g, 31% | C(C)(C)C1C(CC(CC1)C)OC(=O)C1N(CC(C1)=CC1=CC(=CC=C1)F)C(=O)OC(C)(C)C | C27H38FNO4
